US05571813
Preparation of 5-Chloro-7-[(2'-cyanobiphenyl-4-yl)methylamino]pyrazolo[1,5-a]pyrimidine
5.7 g (30.3 mmol) 5,7-dichloropyrazolo[1,5-a]pyrimidine (prepared according to T. Novinson, B. Bhooshan, T. Okabe, G. R. Revankar, R. K. Robins, K. Senga, H. R. Wilson, J. Med. Chem. 1976, 19, 512) and 6.3 g (30.25 mmol) 4-aminomethyl-2'-cyanobiphenyl were dissolved in 150 ml dry ethanol and heated with reflux for 10 h. The solvent was removed in vacuo, the residue dissolved in ethyl acetate, washed with 10% aqueous sodium carbonate solution, and dried over sodium sulfate. After evaporation in vacuo the title compound crystallized from ethyl acetate/ether in colorless crystals, m.p. 162°-163° C.

reactant | 5,7-dichloropyrazolo[1,5-a]pyrimidine | 30.3 mmol, 5.7 g | ClC1=NC=2N(C(=C1)Cl)N=CC2 | C6H3Cl2N3
reactant | 4-aminomethyl-2'-cyanobiphenyl | 30.25 mmol, 6.3 g | NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H12N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-Chloro-7-[(2'-cyanobiphenyl-4-yl)methylamino]pyrazolo[1,5-a]pyrimidine | ClC1=NC=2N(C(=C1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)N=CC2 | C20H14ClN5
